US08283354B2
To a solution of 2-(4-chloro-7-methylquinazolin-2-yl)phenol (0.5 g, 1.84 mmol) in CH2Cl2 (10 mL) at 0° C. was added dropwise a solution of tert-butyl(R)-piperidin-3-ylcarbamate (0.37 g, 1.84 mmol) in CH2Cl2 (5 mL), then triethylamine (0.51 mL, 3.68 mmol). The mixture was allowed to warm to room temperature and was stirred for 3 h. After quenching with water, it was extracted with CH2Cl2. The organic layers were combined, dried over MgSO4, and concentrated. Purification via silica gel chromatography using 5:1 CH2Cl2: hexanes gave tert-butyl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-ylcarbamate (0.54 g, 68%). LC/MS: m/z 435.5 (M+H)+ at 2.80 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-chloro-7-methylquinazolin-2-yl)phenol | 1.84 mmol, 0.5 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C15H11ClN2O
reactant | tert-butyl(R)-piperidin-3-ylcarbamate | 1.84 mmol, 0.37 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 3.68 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-ylcarbamate | 0.54 g, 68% | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CCC1)NC(OC(C)(C)C)=O)C | C25H30N4O3
